US07511035B2
(d) 1,1-dimethylethyl [2-hydroxy-2-(4-piperidinyl)ethyl]carbamate
A solution of 1,1-dimethylethyl {2-hydroxy-2-[1-(phenylmethyl)-4-piperidinyl]ethyl}carbamate (2 g, 5.97 mmol) and Pd(OH)2 (1.2 g, 60 wt %) in ETOH (30 mL) was hydrogenated at 60 psi using a Parr Shaker. After 12 h, the solution was filtered through Celite® and concentrated affording the title compound as a yellow oil which was used directly without further purification: LCMS (ES) m/e 245 (M+H)+.

reactant | 1,1-dimethylethyl {2-hydroxy-2-[1-(phenylmethyl)-4-piperidinyl]ethyl}carbamate | 5.97 mmol, 2 g | OC(CNC(OC(C)(C)C)=O)C1CCN(CC1)CC1=CC=CC=C1 | C19H30N2O3
catalyst | Pd(OH)2 | 1.2 g | [OH-].[OH-].[Pd+2]
product | 1,1-dimethylethyl [2-hydroxy-2-(4-piperidinyl)ethyl]carbamate | OC(CNC(OC(C)(C)C)=O)C1CCNCC1 | C12H24N2O3
